US07005437B2
c) 4-(N-acetyl-cyclopentylamino)-3-methyl-iodobenzene
0.5 g (1.7 mmol) of 4-cyclopentylamino-3-methyl-iodobenzene are dissolved in 20 ml tetrahydrofuran and after the addition of 81.3 mg (1.7 mmol) of sodium hydride (50% in oil) stirred for 1 hour at 40 ° C. After cooling to ambient temperature 0.1 ml (1.5 mmol) of acetyl chloride is added and the mixture is stirred overnight at ambient temperature. The solvent is distilled off and the residue distributed in water/ethyl acetate. The combined organic extracts are dried, concentrated by evaporation and chromatographed on silica gel, eluting with dichloromethane/ethanol 0 to 5%.

reactant | 4-cyclopentylamino-3-methyl-iodobenzene | 1.7 mmol, 0.5 g | C1(CCCC1)NC1=C(C=C(C=C1)I)C | C12H16IN
reactant | sodium hydride | 1.7 mmol, 81.3 mg | [H-].[Na+]
reactant | acetyl chloride | 1.5 mmol, 0.1 ml | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-(N-acetyl-cyclopentylamino)-3-methyl-iodobenzene | C(C)(=O)N(C1=C(C=C(C=C1)I)C)C1CCCC1 | C14H18INO
